US03974162
[6-Chloro-2-(2,3-xylidino)-4-pyrimidinylthio]acetic acid ethyl ester.
A mixture of 18.3 g. of 2,3,6-trichloropyrimidine, 10.6 g. of sodium carbonate and 12.0 g. of ethyl mercaptoacetate in 250 ml. of ethanol was heated with stirring under reflux for 3 hours. 2,3-Dimethylaniline (12.2 g.) was added and refluxing with stirring was continued overnight. The reaction mixture was filtered and the filtrate taken to dryness on a rotary evaporator. The residual oil was dissolved in 100 ml. of ethyl acetate and the resulting solution was diluted to 250 ml. with petroleum ether. There was obtained 5 g. of product. Recrystallization from heptane gave 3.8 g. of pure product, mp. 114°-116°C.

reactant | 2,3,6-trichloropyrimidine | ClC1N=C(C=CN1Cl)Cl | C4H3Cl3N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl mercaptoacetate | SCC(=O)OCC | C4H8O2S
reactant | 2,3-Dimethylaniline | 12.2 g | CC1=C(N)C=CC=C1C | C8H11N
solvent | ethanol | C(C)O | C2H6O
product | [6-Chloro-2-(2,3-xylidino)-4-pyrimidinylthio]acetic acid ethyl ester | C(C)OC(CSC1=NC(=NC(=C1)Cl)NC1=C(C(=CC=C1)C)C)=O | C16H18ClN3O2S
